US05925667
1-ethyl-2-(6-prenyloxynicotinoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 6-prenyloxynicotinic acid (0.70 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.90 g, thereby yielding 0.73 g (68%) of the aimed compound.

reactant | 6-prenyloxynicotinic acid | 0.70 g | C(C=C(C)C)OC1=NC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 2-aminomethyl-1-ethylpyrrolidine | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(6-prenyloxynicotinoylaminomethyl)pyrrolidine | 0.73 g, 68% | C(C)N1C(CCC1)CNC(C1=CN=C(C=C1)OCC=C(C)C)=O | C18H27N3O2
